### PR TITLE
feat(Computability/ContextFreeGrammar): mapping between two types of nonterminal symbols

### PR DESCRIPTION
**Pull request by nielstron**
This PR picks up https://github.com/leanprover-community/mathlib4/pull/15895 and resolves the failing lemma by redefining Good symbols.

---

I checked that https://github.com/leanprover-community/mathlib4/pull/13514 builds correctly when based on this build. PR for that is #33599 

This is my first contribution please let me know of any changes I should outline.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by madvorak — APPROVED** [review]

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 1]
```diff
@@ -336,3 +336,165 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+
+/-- Mapping `Symbol` when it is a nonterminal. -/
+def Symbol.map {N₀ N : Type*} (f : N₀ → N) : Symbol T N₀ → Symbol T N
+  | .terminal t => .terminal t
+  | .nonterminal n => .nonterminal (f n)
+
+/-- Mapping `Symbol` when it is a nonterminal; may return `none`. -/
+def Symbol.filterMap {N₀ N : Type*} (f : N → Option N₀) : Symbol T N → Option (Symbol T N₀)
+  | Symbol.terminal t => some (Symbol.terminal t)
+  | Symbol.nonterminal n => Option.map Symbol.nonterminal (f n)
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean]:
```suggestion
  | terminal t => some (terminal t)
  | nonterminal n => .map nonterminal (f n)
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 2]
```diff
@@ -336,3 +336,165 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+
+/-- Map the type of nonterminal symbols of a `ContextFreeRule` . -/
+def ContextFreeRule.map {N₀ N : Type*} (r : ContextFreeRule T N₀) (f : N₀ → N) :
+    ContextFreeRule T N :=
+  ⟨f r.input, r.output.map (Symbol.map f)⟩
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean]:
```suggestion
  ⟨f r.input, r.output.map (.map f)⟩
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 3]
```diff
@@ -336,3 +336,165 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  projectNT : g.NT → Option g₀.NT
+  /-- The two mappings are essentially inverses. -/
+  projectNT_embedNT : ∀ n₀ : g₀.NT, projectNT (embedNT n₀) = some n₀
+  /-- Each rule of the smaller grammar has a corresponding rule in the bigger grammar. -/
+  embed_mem_rules : ∀ r : ContextFreeRule T g₀.NT, r ∈ g₀.rules → r.map embedNT ∈ g.rules
+  /-- Each rule of the bigger grammar whose input nonterminal is recognized by the smaller grammar
+  has a corresponding rule in the smaller grammar. -/
+  preimage_of_rules :
+    ∀ r : ContextFreeRule T g.NT,
+      r ∈ g.rules → ∀ n₀ : g₀.NT,
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean]: FYI this is valid syntax
```suggestion
  preimage_of_rules (r : ContextFreeRule T g.NT) :
    ∀ r ∈ g.rules → ∀ n₀ : g₀.NT,
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 4]
```diff
@@ -336,3 +336,165 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+/-- Production by `G.g₀` can be mirrored by production by `G.g`. -/
+lemma produces_map {w₁ w₂ : List (Symbol T g₀.NT)}
+    (hG : g₀.Produces w₁ w₂) :
+    g.Produces (w₁.map (Symbol.map G.embedNT)) (w₂.map (Symbol.map G.embedNT)) := by
+  rcases hG with ⟨r, rin, hr⟩
+  rcases hr.exists_parts with ⟨u, v, bef, aft⟩
+  refine ⟨r.map G.embedNT, G.embed_mem_rules r rin, ?_⟩
+  rw [ContextFreeRule.rewrites_iff]
+  use u.map (Symbol.map G.embedNT), v.map (Symbol.map G.embedNT)
+  constructor
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean]:
```suggestion
  refine ⟨u.map (.map G.embedNT), v.map (.map G.embedNT), ?_, ?_⟩
```
This way you skip `constructor`

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 5]
```diff
@@ -336,3 +336,165 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+lemma derives_map {w₁ w₂ : List (Symbol T g₀.NT)}
+    (hG : g₀.Derives w₁ w₂) :
+    g.Derives (w₁.map (Symbol.map G.embedNT)) (w₂.map (Symbol.map G.embedNT)) := by
+  induction hG with
+  | refl => rfl
+  | tail _ orig ih => exact ih.trans_produces (produces_map orig)
+
+/-- A `Symbol` is good iff it is one of those nonterminals that result from projecting or it is any
+terminal. -/
+inductive Good (G : g₀.Embedding g) : Symbol T g.NT → Prop
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean]: Is this standard terminology? It seems overly vague

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 6]
```diff
@@ -336,3 +336,165 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+      · constructor
+      dsimp only [ContextFreeRule.map] at ha
+      rw [List.mem_map] at ha
+      rcases ha with ⟨s, -, hs⟩
+      rw [← hs]
+      cases s with
+      | terminal t => simp [Symbol.map] at hs
+      | nonterminal s' => exact Good.nonterminal s'
+
+lemma derives_filterMap_aux {w₁ w₂ : List (Symbol T g.NT)}
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean]:
```suggestion
private lemma derives_filterMap_aux {w₁ w₂ : List (Symbol T g.NT)}
```

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 5 above)
Comment (madvorak) [reply Mathlib/Computability/ContextFreeGrammar.lean]: No. It isn't standard terminology.

Comment (nielstron) [reply Mathlib/Computability/ContextFreeGrammar.lean]: I changed it to FromEmbeddingOrTerminal

**Comment by YaelDillies** [comment]
See [Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/slow.20linting.20step.20CI.3F/with/566585628)

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 7]
```diff
@@ -335,3 +335,167 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  /-- Each rule of the bigger grammar whose input nonterminal is recognized by the smaller grammar
+  has a corresponding rule in the smaller grammar. -/
+  preimage_of_rules (r : ContextFreeRule T g.NT) :
+    r ∈ g.rules → ∀ n₀ : g₀.NT,
+      embedNT n₀ = r.input → ∃ r₀ ∈ g₀.rules, r₀.map embedNT = r
+
+namespace ContextFreeGrammar.Embedding
+variable {g₀ g : ContextFreeGrammar T} {G : g₀.Embedding g}
+
+/-- Production by `G.g₀` can be mirrored by production by `G.g`. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean]: Two things:
* `G.g₀` and `G.g` don't exist
* You should avoid referring to free variables in docstrings without introducing them first

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 8]
```diff
@@ -335,3 +335,167 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+
+/-- A `Symbol` comes from the embedding or is a terminal iff it is one of those nonterminals that
+result from projecting or it is any terminal. -/
+inductive FromEmbeddingOrTerminal (G : g₀.Embedding g) : Symbol T g.NT → Prop
+  | terminal (t : T) : FromEmbeddingOrTerminal G (.terminal t)
+  | nonterminal (n₀ : g₀.NT) : FromEmbeddingOrTerminal G (.nonterminal (G.embedNT n₀))
+
+/-- A string is from the embedding or terminals iff every `Symbol` in it is. -/
+def FromEmbeddingOrTerminalString (G : g₀.Embedding g) (s : List (Symbol T g.NT)) : Prop :=
+  ∀ ⦃a : Symbol T g.NT⦄, a ∈ s → FromEmbeddingOrTerminal G a
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean]: Do we really need this predicate?

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 9]
```diff
@@ -335,3 +335,167 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+their nonterminal types and embed respective nonterminals to this sum type.
+We subsequently show that the resulting grammar preserves derivations of those strings that may
+contain any terminal symbols but only the proper nonterminal symbols.
+The embedding operation must be injective.
+The projection operation must be injective on those symbols where it is defined. -/
+
+/-- Mapping `Symbol` when it is a nonterminal. -/
+def Symbol.map {N₀ N : Type*} (f : N₀ → N) : Symbol T N₀ → Symbol T N
+  | .terminal t => .terminal t
+  | .nonterminal n => .nonterminal (f n)
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:352]: Do we never want to map the terminal objects?

Comment (nielstron) [reply Mathlib/Computability/ContextFreeGrammar.lean:352]: We might. The most general version of this "embedding" style operation on grammars is substitution, where we can replace terminals (or nonterminals) by entire grammars (a nice side effect is that union and concatenation are very straightforward corollaries from this, alas, it is much more hairy to define and prove). I am exploring this route seperately, but I think it will end up completely different to the proofs made here.

The lemmas here are very strongly geared towards proving the Union and Concatenation results in #33599 and #33601 . This is why the definition is so limited. I am not sure if adding terminal embeddings makes them particularly more useful or interesting to other results.

Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean:352]: Is this a case of "This definition will be generalised later" or "We will need two definitions because one of them is much more complicated than the other one"?

Comment (nielstron) [reply Mathlib/Computability/ContextFreeGrammar.lean:352]: I think the latter. This mapping itself is not really an interesting result IMO, it is really just a helper structure to enable union and concatenation. Making the mapping more general would just make it harder to prove union and concatenation.

Comment (nielstron) [reply Mathlib/Computability/ContextFreeGrammar.lean:352]: Maybe I am also not very creative for this.. [I tried defining a variant that allows mapping the terminals](https://github.com/nielstron/mathlib4/tree/cfg-mapping-terminals) too, but it ends up just requiring a number of additional properties due to how it is being used here

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 8 above)
Comment (nielstron) [reply Mathlib/Computability/ContextFreeGrammar.lean]: Yes, the shown properties only hold when all symbols stem from this embedding. The union proof will for example map all symbols from two previous languages a sum type, and add entirely new symbols that can not be mapped back to combine them into the union grammar.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 7 above)
Comment (nielstron) [reply Mathlib/Computability/ContextFreeGrammar.lean]: What is the correct way to introduce the variables here? Docstrings before variables seem not allowed.

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean:352]: Okay, let's punt this on

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean]: No sorry, I mean "Do we really need to give a name to this predicate, instead of simply writing it out?"

Comment (nielstron) [reply Mathlib/Computability/ContextFreeGrammar.lean]: Turns out, no. I have simplified the statement to re-use List.forall and removed the definition

File: Mathlib/Computability/ContextFreeGrammar.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean]: "For a context-free grammar `g₀` embedding into another one `g`, ..."

Comment (nielstron) [reply Mathlib/Computability/ContextFreeGrammar.lean]: Just to make sure this is not missed: the variables are introduced in the embedding definition, this is not enough?

Comment (YaelDillies) [reply Mathlib/Computability/ContextFreeGrammar.lean]: I am giving you documentation best practices, I hope you can trust my experience here

Comment (nielstron) [reply Mathlib/Computability/ContextFreeGrammar.lean]: Thanks! I will adapt the documentation accordingly.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 10]
```diff
@@ -335,3 +335,163 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+
+/-- Mapping `Symbol` when it is a nonterminal; may return `none`. -/
+def Symbol.filterMap {N₀ N : Type*} (f : N → Option N₀) : Symbol T N → Option (Symbol T N₀)
+  | terminal t => some (terminal t)
+  | nonterminal n => .map nonterminal (f n)
+
+/-- Map the type of nonterminal symbols of a `ContextFreeRule` . -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean]:
```suggestion
/-- Map the type of nonterminal symbols of a `ContextFreeRule`. -/
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 11]
```diff
@@ -335,3 +335,163 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  rcases hG with ⟨r, rin, hr⟩
+  rcases hr.exists_parts with ⟨u, v, bef, aft⟩
+  refine ⟨r.map G.embedNT, G.embed_mem_rules r rin, ?_⟩
+  rw [ContextFreeRule.rewrites_iff]
+  refine ⟨u.map (.map G.embedNT), v.map (.map G.embedNT), ?_, ?_⟩
+  · simpa only [List.map_append] using congr_arg (List.map (Symbol.map G.embedNT)) bef
+  · simpa only [List.map_append] using congr_arg (List.map (Symbol.map G.embedNT)) aft
+
+/-- For context-free grammar `g₀` that embeds to `g`, every derivation using `g₀`
+    can be mirrored by a derivation using `g`. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean]:
```suggestion
/-- If a context-free grammar `g₀` embeds into another `g`, then every derivation using `g₀`
gives a derivation using `g`. -/
```
or why not
```suggestion
/-- Derivation can be pushed forward along embeddings of context-free grammars. -/
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 12]
```diff
@@ -335,3 +335,163 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  | tail _ orig ih => exact ih.trans_produces (produces_map orig)
+
+/-- A `Symbol` stems from the embedding of context-free grammr `g₀` into `g` or is a terminal
+    iff it is one of those nonterminals that result from projecting or it is any terminal. -/
+inductive FromEmbeddingOrTerminal (G : g₀.Embedding g) : Symbol T g.NT → Prop
+  | terminal (t : T) : FromEmbeddingOrTerminal G (.terminal t)
+  | nonterminal (n₀ : g₀.NT) : FromEmbeddingOrTerminal G (.nonterminal (G.embedNT n₀))
+
+/-- Production by `g` can be mirrored by `g₀` production if the first word does not contain any
+    nonterminals that `g₀` lacks. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean]: Here and below
```suggestion
nonterminals that `g₀` lacks. -/
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 13]
```diff
@@ -335,3 +335,163 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+    can be mirrored by a derivation using `g`. -/
+lemma derives_map {w₁ w₂ : List (Symbol T g₀.NT)}
+    (hG : g₀.Derives w₁ w₂) :
+    g.Derives (w₁.map (Symbol.map G.embedNT)) (w₂.map (Symbol.map G.embedNT)) := by
+  induction hG with
+  | refl => rfl
+  | tail _ orig ih => exact ih.trans_produces (produces_map orig)
+
+/-- A `Symbol` stems from the embedding of context-free grammr `g₀` into `g` or is a terminal
+    iff it is one of those nonterminals that result from projecting or it is any terminal. -/
```
Comment (nielstron) [inline Mathlib/Computability/ContextFreeGrammar.lean]:
```suggestion
iff it is one of those nonterminals that result from projecting or it is any terminal. -/
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 14]
```diff
@@ -335,3 +335,163 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  refine ⟨u.map (.map G.embedNT), v.map (.map G.embedNT), ?_, ?_⟩
+  · simpa only [List.map_append] using congr_arg (List.map (Symbol.map G.embedNT)) bef
+  · simpa only [List.map_append] using congr_arg (List.map (Symbol.map G.embedNT)) aft
+
+/-- If a context-free grammar `g₀` embeds into another `g`, then every derivation using `g₀`
+gives a derivation using `g`. -/
+lemma derives_map {w₁ w₂ : List (Symbol T g₀.NT)}
+    (hG : g₀.Derives w₁ w₂) :
+    g.Derives (w₁.map (Symbol.map G.embedNT)) (w₂.map (Symbol.map G.embedNT)) := by
+  induction hG with
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:404]:
```suggestion
lemma derives_map {w₁ w₂ : List (Symbol T g₀.NT)} :
    g₀.Derives w₁ w₂ \r
      g.Derives (w₁.map (Symbol.map G.embedNT)) (w₂.map (Symbol.map G.embedNT))
```

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 15]
```diff
@@ -335,3 +335,163 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+/-- A `Symbol` stems from the embedding of context-free grammr `g₀` into `g` or is a terminal
+iff it is one of those nonterminals that result from projecting or it is any terminal. -/
+inductive FromEmbeddingOrTerminal (G : g₀.Embedding g) : Symbol T g.NT → Prop
+  | terminal (t : T) : FromEmbeddingOrTerminal G (.terminal t)
+  | nonterminal (n₀ : g₀.NT) : FromEmbeddingOrTerminal G (.nonterminal (G.embedNT n₀))
+
+/-- Production by `g` can be mirrored by `g₀` production if the first word does not contain any
+nonterminals that `g₀` lacks. -/
+lemma produces_filterMap {w₁ w₂ : List (Symbol T g.NT)}
+    (hG : g.Produces w₁ w₂) (hw₁ : List.Forall (FromEmbeddingOrTerminal G) w₁) :
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:417]: Is it not easier to write this as
```suggestion
    (hG : g.Produces w₁ w₂) (hw₁ : \forall n : g.NT, .nonterminal n \in w₁ \r \ex n₀, G.embedNT n₀ = n) :
```
? Then you needn't introduce `FromEmbeddingOrTerminal`.

File: Mathlib/Computability/ContextFreeGrammar.lean [hunk 16]
```diff
@@ -335,3 +335,163 @@ theorem Language.IsContextFree.reverse (L : Language T) :
...
+  have from_embedding_or_terminal_input :
+      G.FromEmbeddingOrTerminal (Symbol.nonterminal r.input) := by
+    apply hw₁_mem
+    simp
+  revert from_embedding_or_terminal_input
+  generalize hr_eq : r.input = n
+  intro from_embedding_or_terminal_input
+  cases from_embedding_or_terminal_input with
+  | nonterminal n₀ =>
+    rcases G.preimage_of_rules r rin n₀ hr_eq.symm with ⟨r₀, hr₀, hrr₀⟩
```
Comment (YaelDillies) [inline Mathlib/Computability/ContextFreeGrammar.lean:436]:
```suggestion
  rintro (n₀ | t)
  · rcases G.preimage_of_rules r rin n₀ hr_eq.symm with ⟨r₀, hr₀, hrr₀⟩
```
